US08022062B2
2-Bromo-pyridine-5-carbaldehyde oxime:
Add hydroxylamine hydrochloride (1.494 g, 21.504 mmol) and a solution of NaHCO3 (2.71 g, 32.256 mmol) in water (15 mL) to a solution of 2-bromo-5-formyl-pyridine (2 g, 10.752 mmol, prepared by following the procedure described in J. Org. Chem. 2004, 69, 250-262) in absolute ethanol (100 mL). Stir the mixture at room temperature for 2 h. Concentrate in vacuo and partition the residue between EtOAc and water. Extract the aqueous phase with EtOAc. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (9:1, 4:1) to afford the desired intermediate as a solid (1.362 g, 63%).

reactant | hydroxylamine hydrochloride | 21.504 mmol, 1.494 g | Cl.NO
reactant | NaHCO3 | 32.256 mmol, 2.71 g | C(=O)(O)[O-].[Na+]
reactant | 2-bromo-5-formyl-pyridine | BrC1=NC=C(C=C1)C=O | C6H4BrNO
solvent | water | 15 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-Bromo-pyridine-5-carbaldehyde oxime | 1.362 g, 63% | BrC1=NC=C(C=C1)C=NO | C6H5BrN2O
